*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ250ARA561MJA0G
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ250ARA561MJA0G_20deg-C 1 2

C1 4 2 2.62e-04
C2 5 2 1.32e-04
C3 6 2 9.78e-05
R1 3 4 1.14e-02
R2 4 5 7.95e-02
R3 5 6 6.91e-01
L1 1 3 4.50e-09

.ENDS
*$
